US05763458
1-(4-Acetylamino-5-chloro-2-methoxyphenyl)-5-(piperidin-1-yl)pentan-1-one was dissolved in 2N hydrochloric acid (25 mL) and the solution was stirred for 30 minutes. The solution was cooled in an ice bath to form a precipitate. The precipitate was collected by filtration and washed with water. Drying in a vacuum oven at 70° C. gave 1-(4-amino-5-chloro-2-methoxyphenyl)-5-(piperidin-1-yl)pentan-1-one hydrochloride (0.65 g, 2 mmol), m.p. 220°-221° C.

reactant | 1-(4-Acetylamino-5-chloro-2-methoxyphenyl)-5-(piperidin-1-yl)pentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCN1CCCCC1)=O)OC | C19H27ClN2O3
solvent | hydrochloric acid | 2N, 25 mL | Cl | ClH
product | 1-(4-amino-5-chloro-2-methoxyphenyl)-5-(piperidin-1-yl)pentan-1-one hydrochloride | 2 mmol, 0.65 g | Cl.NC1=CC(=C(C=C1Cl)C(CCCCN1CCCCC1)=O)OC | InChI=1S/C17H25ClN2O2.ClH/c1-22-17-12-15(19)14(18)11-13(17)16(21)7-3-6-10-20-8-4-2-5-9-20;/h11-12H,2-10,19H2,1H3;1H
